US07214673B2
11-(3-(S)-Benzyl-piperazin-1-yl)-8-chloro-5H-dibenzo[b,e][1,4]diazepine
Combine 3-(S)-benzyl-piperazine (800 mg, 4.5 mmol), 8-chloro-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride (424 mg, 1.5 mmol), toluene (8 mL), dimethylsulfoxide (2 mL) and reflux for 3 days. Concentrate and pour into water (50 mL), filtrate the resulting solid, redissolve in dichloromethane (200 mL), wash with water and dry over magnesium sulfate. After concentration, purify by flash chromatography (dichloromethane then gradient of methanol 3–10%) to give (316 mg, 53%) of the title compound as a yellow foam: mp 79–92° C.; 1H NMR (CDCl3): δ 2.59 (dd, 1H), 2.90–2.66 (m, 3H), 3.09–2.94 (m, 3H), 3.85 (bm, 1H), 4.03 (bm, 1H), 4.88 (s, 1H), 6.61 (dd, 1H), 6.79–6.84 (m, 2H), 6.97 (t, 1H), 7.06 (t, 1H), 7.35–7.19 (m, 7H); MS (APCI) m/z (rel intensity) 403.4 (100).

reactant | 3-(S)-benzyl-piperazine | 4.5 mmol, 800 mg | C(C1=CC=CC=C1)[C@H]1CNCCN1 | C11H16N2
reactant | 8-chloro-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 1.5 mmol, 424 mg | Cl.ClC=1C=CC2=C(N=C(C3=C(N2)C=CC=C3)N)C1
reactant | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
product | 11-(3-(S)-Benzyl-piperazin-1-yl)-8-chloro-5H-dibenzo[b,e][1,4]diazepine | 316 mg, 53% | C(C1=CC=CC=C1)[C@H]1CN(CCN1)C=1C2=C(NC3=C(N1)C=C(C=C3)Cl)C=CC=C2 | C24H23ClN4
